US20010012901A1
Zn powder (0.32 g) was added to a mixture of 4-ethoxycarbonylpropoxy-N-{4-[3-(2,2,2-trichloroethoxy-carbonyl)propoxy]-2,3,6-trimethylbenzenesulfonyl}benzamidine (0.65 g), water (2 ml), and AcOH (18 ml) under ice-water cooling. The reaction mixture was stirred at room temperature for 3.25 hours, and then evaporated. The resulting precipitate was removed by filtration, and was washed with AcOEt and isopropyl ether (IPE). The filtrate, AcOEt, and IPE were combined, and then washed with water. The organic phase was dried over MgSO4, and evaporated. The resulting residue was purified by chromatography over silica gel (CHCl3—MeOH as eluent) to give 4-ethoxycarbonylpropoxy-N-[ 4-(3-carboxypropoxy)-2,3,6-trimethylbenzenesulfonyl]-benzamidine (0.17 g) as an oil compound.

reactant | 4-ethoxycarbonylpropoxy-N-{4-[3-(2,2,2-trichloroethoxy-carbonyl)propoxy]-2,3,6-trimethylbenzenesulfonyl}benzamidine | 0.65 g | C(C)OC(=O)CCCOC1=CC=C(C(=N)NS(=O)(=O)C2=C(C(=C(C=C2C)OCCCC(=O)OCC(Cl)(Cl)Cl)C)C)C=C1 | C28H35Cl3N2O8S
reactant | water | 2 ml | O | H2O
catalyst | Zn | 0.32 g | [Zn] | Zn
solvent | AcOH | 18 ml | CC(=O)O | C2H4O2
product | 4-ethoxycarbonylpropoxy-N-[ 4-(3-carboxypropoxy)-2,3,6-trimethylbenzenesulfonyl]-benzamidine | 0.17 g | C(C)OC(=O)CCCOC1=CC=C(C(=N)NS(=O)(=O)C2=C(C(=C(C=C2C)OCCCC(=O)O)C)C)C=C1 | C26H34N2O8S
